US07338960B2
Ethyl [(4-{[1-(6-bromo-2-pyridinyl)-3-(methyloxy)propyl]oxy}-2-methylphenyl)oxy]acetate
A solution of diisopropylazodicarboxylate (1.44 mL, 7.31 mmol) in dry THF (50 mL) was added drop-wise, under nitrogen, over 1.5 h (using a syringe pump) to a solution ethyl (4-hydroxy-2-methylphenoxy)acetate (1.10 g, 5.21 mmol), 1-(6-bromo-2-pyridinyl)-3-(methyloxy)-1-propanol (1.29 g, 5.24 mmol) and triphenylphosphine (1.92 g, 7.32 mmol) in dry THF (50 mL) at 0° C. The resulting mixture was stirred under nitrogen and gradually allowed to warm to room temperature over 19 h. The solvent was then removed in vacuo and the residue purified by Biotage (silica, 90 g cartridge), eluting with cyclohexane:EtOAc 85:15 to afford the title compound as a pale yellow oil (1.32 g).

reactant | diisopropylazodicarboxylate | 7.31 mmol, 1.44 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | ethyl (4-hydroxy-2-methylphenoxy)acetate | 5.21 mmol, 1.10 g | OC1=CC(=C(OCC(=O)OCC)C=C1)C | C11H14O4
reactant | 1-(6-bromo-2-pyridinyl)-3-(methyloxy)-1-propanol | 5.24 mmol, 1.29 g | BrC1=CC=CC(=N1)C(CCOC)O | C9H12BrNO2
reactant | triphenylphosphine | 7.32 mmol, 1.92 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | Ethyl [(4-{[1-(6-bromo-2-pyridinyl)-3-(methyloxy)propyl]oxy}-2-methylphenyl)oxy]acetate | 1.32 g | BrC1=CC=CC(=N1)C(CCOC)OC1=CC(=C(C=C1)OCC(=O)OCC)C | C20H24BrNO5
